### PR TITLE
soundness of noncumu (realizability)

### PR DESCRIPTION
**Pull request by jiangsy**

### CODE REVIEW

File: src/NonCumulative/Soundness/Realizability.agda [hunk 1]
```diff
@@ -0,0 +1,527 @@
...
+v0∼x-gen {Δ} {σ} {.(Γ₁ L.++ (T ↙ i) L.∷ Γ₂)} {T} Γ₁ {Γ₂} {i} (r-I σ≈) refl
+  with presup-s-≈ σ≈
+... | ⊢Δ , ⊢σ , ⊢I , ⊢Γ
+    with ⊢≈-sym (⊢I-inv ⊢I)
+... | Γ≈Δ = ≈-trans ([]-cong (v-≈ ⊢Γ n∈) σ≈) (≈-trans ([I] (conv (ctxeq-tm Γ≈Δ (vlookup ⊢Γ n∈)) (≈-sym (≈-trans ([]-cong-Se″ ⊢T[wk]* ⊢σ σ≈) ([I] (ctxeq-tm Γ≈Δ  ⊢T[wk]*)))))) helper)
+  where n∈      = n∶T[wk]n∈!ΔTΓ Γ₁ refl
+        ⊢T[wk]* = proj₂ (presup-tm (⊢vn∶T[wk]suc[n] ⊢Γ refl))
+        [wkσ]≈  = []-cong-Se″ ⊢T[wk]* ⊢σ σ≈
+        helper : Δ ⊢ v (len Γ₁) ≈ v (len Δ ∸ len Γ₂ ∸ 1) ∶[ i ] T [wk]* (1 + len Γ₁) [ σ ]
+        helper rewrite sym (≈⇒len≡ Γ≈Δ) | var-arith Γ₁ T Γ₂ i = ≈-conv (ctxeq-≈ Γ≈Δ (v-≈ ⊢Γ n∈)) (≈-trans (≈-sym ([I] (ctxeq-tm Γ≈Δ ⊢T[wk]*))) (≈-sym [wkσ]≈))
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Realizability.agda]: style: rewrite

File: src/NonCumulative/Soundness/Realizability.agda [hunk 2]
```diff
@@ -0,0 +1,527 @@
...
+  ; krip = λ {Δ} {σ} ⊢σ → v0∼x-gen [] ⊢σ refl
+  }
+  where ⊢TΓ = ⊢∷ ⊢Γ ⊢T
+
+private
+  module Real where
+    mutual
+      ®↓El⇒®El : ∀ {i} → (rc : ∀ {j} → j < i → ∀ {A B Γ T Δ σ} (A≈B : A ≈ B ∈ 𝕌 j) → Γ ⊢ T ®[ j ] A≈B → Δ ⊢w σ ∶ Γ → ∃ λ W → Rty len Δ - A at j ↘ W × Δ ⊢ T [ σ ] ≈ Nf⇒Exp W ∶[ 1 + j ] Se j) →
+                 (A≈B : A ≈ B ∈ 𝕌 i) → Γ ⊢ t ∶ T ®↓[ i ] c ∈El A≈B → Γ ⊢ t ∶ T ®[ i ] ↑ i A c ∈El A≈B
+      ®↓El⇒®El rc R@(ne′ C≈C′) t®↓ = (ne c∈⊥ refl refl) , record
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Realizability.agda]: `ne'`, unnecessary parentheses

File: src/NonCumulative/Soundness/LogRel.agda [hunk 3]
```diff
@@ -219,8 +219,8 @@ module Glu where
              Ctx → Exp → Typ → D → A ≈ B ∈ PERDef.𝕌 i Univ → Set
     ⟦ i , rc , Univ ⟧ Γ ⊢ t ∶ T ® a ∈El (ne C≈C′ j≡1+i j'=1+i) = Σ (a ∈′ Neu i) λ { (ne c∈⊥ i′=i₁ i′=i₂) → GluNe i Γ t T c∈⊥ C≈C′ }
     ⟦ i , rc , Univ ⟧ Γ ⊢ t ∶ T ® a ∈El (N i≡0) = Γ ⊢ t ∶N® a ∈Nat × Γ ⊢ T ≈ N ∶[ 1 ] Se 0
-    ⟦ i , rc , Univ ⟧ Γ ⊢ t ∶ T ® a ∈El (U {j} i≡1+j j≡j′) = GluU j i Γ t T a (λ l<j → Univ (U≤ i≡1+j l<j))
-      λ a∈ → rc (≤-reflexive (sym i≡1+j)) (λ l<j → Univ (U≤ i≡1+j l<j)) Γ t a∈
+    ⟦ i , rc , Univ ⟧ Γ ⊢ t ∶ T ® a ∈El (U {j} i≡1+j j≡j′) = GluU j i Γ t T a (𝕌-wellfounded j)
+      λ a∈ → rc (≤-reflexive (sym i≡1+j)) (𝕌-wellfounded j) Γ t a∈
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/LogRel.agda:223]: why change this?

File: src/NonCumulative/Soundness/Pi.agda [hunk 4]
```diff
@@ -0,0 +1,371 @@
...
+                     | Tkrip₁ (f ( ®El-≡ _ _ (®El-resp-T≈ _ s®a ([∘]-Se ⊢S ⊢σ ⊢τ′)) refl ))
+            ...      | record { ↘⟦T⟧ = ↘⟦T⟧ ; ↘⟦T′⟧ = ↘⟦T′⟧ ; T≈T′ = T≈T′ }
+                     | record { ↘⟦T⟧ = ⟦Se⟧ _ ; ↘⟦t⟧ = ↘⟦T⟧₁ ; T∈𝕌 = U 1+k≡1+k _ ; t∼⟦t⟧ = T∼⟦T⟧₁ }
+                    rewrite ⟦⟧-det ↘⟦T⟧₁ ↘⟦T⟧ | Glu-wellfounded-≡ (≤-reflexive (sym 1+k≡1+k))
+                      with T∼⟦T⟧₁
+            ...          | record { A∈𝕌 = T∈𝕌 ; rel = rel } = ®-one-sided T∈𝕌 T≈T′ (®-resp-≈ _ rel T[σ∘τ,s]≈T[σ∘wk,v0][τ,s])
+              where T[σ∘τ,s]≈T[σ∘wk,v0][τ,s] : Δ′ ⊢ T [ (σ ∘ τ) , s ∶ S ↙ j ] ≈ T [ (σ ∘ wk) , v 0 ∶ S ↙ j ] [ τ , s ∶ S [ σ ] ↙ j ] ∶[ 1 + k ] Se k
+                    T[σ∘τ,s]≈T[σ∘wk,v0][τ,s] =
+                      -- module parameter j is not used by q∘,≈∘, . picking any number is fine
+                      begin T [ (σ ∘ τ) , s ∶ S ↙ j ]                                  ≈˘⟨ []-cong-Se‴ ⊢T (q∘,≈∘, {j = 0} ⊢σ ⊢S ⊢τ′ ⊢s) ⟩
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Pi.agda]: style: begin to the right of `=`

File: src/NonCumulative/Soundness/Pi.agda [hunk 5]
```diff
@@ -0,0 +1,371 @@
...
+        ⊢s = ⊩⇒⊢-tm ⊩s
+
+        helper : Δ ⊢s σ ∶ ⊩Γ ® ρ → GluExp k Δ (r $ s) (T [| s ∶ S ↙ j ]) σ ρ
+        helper {Δ} {σ} {ρ} σ®ρ
+          with s®⇒⊢s ⊩Γ σ®ρ | s.krip (s®-irrel ⊩Γ s.⊩Γ σ®ρ) | r.krip (s®-irrel ⊩Γ r.⊩Γ σ®ρ)
+        ...  | ⊢σ
+             | record { ⟦T⟧ = ⟦S⟧ ; ⟦t⟧ = ⟦s⟧ ; ↘⟦T⟧ = ↘⟦S⟧ ; ↘⟦t⟧ = ↘⟦s⟧ ; T∈𝕌 = S∈𝕌 ; t∼⟦t⟧ = s∼⟦s⟧ }
+             | record { ⟦T⟧ = .(Π _ _ (T ↙ _) ρ) ; ⟦t⟧ = ⟦r⟧ ; ↘⟦T⟧ = ⟦Π⟧ ↘⟦S⟧′ ; ↘⟦t⟧ = ↘⟦r⟧ ; T∈𝕌 = Π i≡′maxjk jA RT _ _ ; t∼⟦t⟧ = r∼⟦r⟧ }
+             rewrite ⟦⟧-det ↘⟦S⟧′ ↘⟦S⟧
+              with Skrip σ®ρ | s®-cons ⊩SΓ σ®ρ
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Pi.agda]: style: align `rewrite` and `with`

File: src/NonCumulative/Soundness/Properties/Inversion.agda [hunk 6]
```diff
@@ -0,0 +1,160 @@
...
+open import Data.Nat.Properties as ℕₚ
+
+open import NonCumulative.Semantics.Properties.PER (fext)
+open import NonCumulative.Soundness.LogRel
+open import NonCumulative.Soundness.Properties.LogRel (fext)
+
+-- this set of lemmas re-tie the knots to change all the Univ and Glu to their standard forms
+-- i.e., 𝕌-wellfounded _ and Glu-wellfounded _
+
+®-Π-inv : ∀ {i j k} →
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/Inversion.agda]: why call them inversion?

File: src/NonCumulative/Soundness/Properties/Substitutions.agda [hunk 7]
```diff
@@ -0,0 +1,260 @@
...
+  with InitEnvs⇒s®I ⊩Δ ↘ρ | ⊩⇒⊢ ⊩Δ
+...  | I∼ρ | ⊢Δ
+    with s®⇒⟦⟧ρ ⊩Δ I∼ρ | fundamental-⊢t ⊢T
+...    | ⊨Δ , ρ∥∈ | ⊨Δ₁ , Trel₁
+      with Trel₁ (⊨-irrel ⊨Δ ⊨Δ₁ ρ∥∈)
+         | gluT I∼ρ
+...      | record { ↘⟦T⟧ = ⟦Se⟧ _ ; ↘⟦T′⟧ = ⟦Se⟧ _ ; T≈T′ = U eq _ }
+         , record { ⟦t⟧ = ⟦T⟧ ; ↘⟦t⟧ = ↘⟦T⟧ ; ↘⟦t′⟧ = ↘⟦T′⟧ ; t≈t′ = T≈T′ }
+         | record { ↘⟦T⟧ = ↘⟦T⟧′ ; T∈𝕌 = T∈𝕌 ; T∼⟦T⟧ = T∼⟦T⟧ }
+        rewrite 𝕌-wellfounded-≡-𝕌 _ (≤-reflexive (sym eq))
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/Substitutions.agda]: style: align

File: src/NonCumulative/Soundness/Realizability.agda [hunk 8]
```diff
@@ -0,0 +1,527 @@
...
+            ; ↘fa = ↘a
+            ; ®fa = ∼a
+            }
+          }
+        }
+        where module ↓ = _⊢_∶_®↓[_]_∈El_ t®↓
+              open ↓
+              module G = GluΠ T∼A
+              open G
+              helper : ∀ {k′} →
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Realizability.agda]: can we make use of the `inv` lemmas and make it a bit nicer? we can discuss

File: src/NonCumulative/Soundness/Realizability.agda [hunk 9]
```diff
@@ -0,0 +1,527 @@
...
+        { t∶T = t∶T
+        ; T∼A = T≈
+        ; a∈⊤ = λ n → let W , ↘W , ↘W′ = 𝕌⊆TopT A∈𝕌 n in W , (RU _ ↘W refl) , RU _ ↘W′ refl
+        ; krip = λ ⊢σ → helper ⊢σ
+        }
+        where helper : ∀ {Δ} →
+                       Δ ⊢w σ ∶ Γ →
+                       ---------------
+                       Δ ⊢ sub t σ ≈ Nf⇒Exp (proj₁ (𝕌⊆TopT A∈𝕌 (len Δ))) ∶[ ℕ.suc j ] sub T σ
+              helper {Δ = Δ} ⊢σ with W′ , ↘W′ , _ ← 𝕌⊆TopT A∈𝕌 (len Δ)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Realizability.agda]: style: `with`

File: src/NonCumulative/Soundness/Realizability.agda [hunk 10]
```diff
@@ -0,0 +1,527 @@
...
+                                   | W , ↘W , W≈ ← rc (≤-reflexive refl) A∈𝕌 rel ⊢σ -- well-founded induction
+                                  rewrite Rty-det ↘W ↘W′ = ≈-conv W≈ (≈-trans (≈-sym (Se-[] _ (⊢w⇒⊢s ⊢σ))) ([]-cong-Se′ (≈-sym T≈) (⊢w⇒⊢s ⊢σ)))
+      ®El⇒®↑El {Π j A (S ↙ k) ρ} {Γ = Γ} {t = t} {T = T} rc (Π′ {j} {k} jA RT) t® = record
+        { t∶T = t∶T
+        ; T∼A = ®El⇒® (Π′ jA RT) t®
+        ; a∈⊤ = El⊆Top (Π′ jA RT) a∈El
+        ; krip = λ {Δ} {σ} ⊢σ →
+                 let W , ↘W , _  =  El⊆Top (Π′ jA RT) a∈El (len Δ)
+                     in subst (_ ⊢ _ ≈_∶[ _ ] _) (cong Nf⇒Exp (Rf-det ↘W (proj₁ (proj₂ (El⊆Top (Π′ jA RT) a∈El (len Δ))))))
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Realizability.agda]: style: `in`

File: src/NonCumulative/Soundness/Realizability.agda [hunk 11]
```diff
@@ -0,0 +1,527 @@
...
+                      Tσ≈   = ≈-trans ([]-cong-Se′ T≈ ⊢σ′) (Π-[] ⊢σ′ ⊢IT ⊢OT refl)
+                      ⊢tσ   = conv (t[σ] t∶T ⊢σ′) Tσ≈
+                      ⊢Δ    = proj₁ (presup-s ⊢σ′)
+                      ⊢Γ    = proj₂ (presup-s ⊢σ′)
+                      ⊢ITσ  = t[σ]-Se ⊢IT ⊢σ′
+                      ⊢ITσΔ = ⊢∷ ⊢Δ (t[σ]-Se ⊢IT ⊢σ′)
+                      ⊢qσ   = ⊢q ⊢Δ ⊢σ′ ⊢IT
+                      ⊢OTqσ = t[σ]-Se ⊢OT ⊢qσ
+                      ⊢σwk  = s-∘ (s-wk ⊢ITσΔ) ⊢σ′
+                      open ΛRel (krip ⊢σ) using (IT-rel)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Realizability.agda]: I would just assign different names to the module and use `.` operator. this might gets tricky after some time.

File: src/NonCumulative/Soundness/Realizability.agda [hunk 12]
```diff
@@ -0,0 +1,527 @@
...
+                                         ∎
+                                    eq″ = ctxeq-s (∷-cong (⊢≈-refl ⊢ITσΔ) ⊢IT[σ∘wk] ⊢IT[σ][wk] (≈-sym ITσwk≈) (≈-sym ITσwk≈)) (⊢q ⊢ITσΔ ⊢σwk ⊢IT)
+                                    ⊢OT[q] = t[σ]-Se ⊢OT eq″
+                                    eq‴ = begin
+                                            sub OT (q (IT ↙ j) (σ ∘ wk)) [| v 0 ∶ sub (sub IT σ) wk ↙ j ] ≈⟨ []-cong-Se (≈-refl ⊢OT[q])
+                                                                                                                      (s-, (s-I ⊢ITσΔ) ⊢IT[σ][wk] (conv (vlookup ⊢ITσΔ here) (≈-sym ([I] ⊢IT[σ][wk]))))
+                                                                                                                      (,-cong (s-≈-refl (s-I ⊢ITσΔ)) ⊢IT[σ][wk] ITσwk≈ (≈-refl (conv (vlookup ⊢ITσΔ here) (≈-sym ([I] ⊢IT[σ][wk]))))) ⟩
+                                            sub OT (q (IT ↙ j) (σ ∘ wk)) [| v 0 ∶ sub IT (σ ∘ wk) ↙ j ] ≈⟨ ≈-sym ([]-q-∘-,′ ⊢OT ⊢σwk (conv (vlookup ⊢ITσΔ here) ITσwk≈)) ⟩
+                                            sub OT ((σ ∘ wk) , v 0 ∶ IT ↙ j)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Realizability.agda]: sub

File: src/NonCumulative/Soundness/Realizability.agda [hunk 13]
```diff
@@ -0,0 +1,527 @@
...
+                         Δ ⊢w σ ∶ Γ →
+                         (kA : A ≈ A′ ∈ PERDef.𝕌 k′ (λ l<j → 𝕌-wellfounded (j + k′) (Li≤ refl l<j))) →
+                         (a∈El : a ∈′ Unli (PERDef.El k′ _ kA)) →
+                         (↘ua : unli∙ a ↘ ua) →
+                         Glu.⟦ k′ , (λ l<j → Glu-wellfounded (j + k′) (Li≤ refl l<j)) , _ ⟧ Δ ⊢ sub (unlift t) σ ∶ sub UT σ ® ua ∈El kA →
+                         (a∈⊤ : ↓ ( j + k′) (Li j k A) a ≈ ↓ (j + k′) (Li j k A′) a ∈ Top) →
+                         -----------------
+                         Δ ⊢ sub t σ ≈ Nf⇒Exp (proj₁ (a∈⊤ (L.length Δ))) ∶[ j + k′ ] sub T σ
+              helper {Δ = Δ} {k′ = k′} k≡k′ ⊢σ kA a∈El ↘ua t® a∈⊤ rewrite Glu-wf-gen k′ (Li≤′ j k′ refl) |  𝕌-wf-gen k′ (Li≤′ j k′ refl) | sym k≡k′
+                with ⊢Δ , _ ← presup-s (⊢w⇒⊢s ⊢σ)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Realizability.agda:384]: pipes?

File: src/NonCumulative/Soundness/Realizability.agda [hunk 14]
```diff
@@ -0,0 +1,527 @@
...
+                                    eq‴ = begin
+                                            sub OT (q (IT ↙ j) (σ ∘ wk)) [| v 0 ∶ sub (sub IT σ) wk ↙ j ] ≈⟨ []-cong-Se (≈-refl ⊢OT[q])
+                                                                                                                      (s-, (s-I ⊢ITσΔ) ⊢IT[σ][wk] (conv (vlookup ⊢ITσΔ here) (≈-sym ([I] ⊢IT[σ][wk]))))
+                                                                                                                      (,-cong (s-≈-refl (s-I ⊢ITσΔ)) ⊢IT[σ][wk] ITσwk≈ (≈-refl (conv (vlookup ⊢ITσΔ here) (≈-sym ([I] ⊢IT[σ][wk]))))) ⟩
+                                            sub OT (q (IT ↙ j) (σ ∘ wk)) [| v 0 ∶ sub IT (σ ∘ wk) ↙ j ] ≈⟨ ≈-sym ([]-q-∘-,′ ⊢OT ⊢σwk (conv (vlookup ⊢ITσΔ here) ITσwk≈)) ⟩
+                                            sub OT ((σ ∘ wk) , v 0 ∶ IT ↙ j)
+                                          ∎
+      ®El⇒®↑El {Γ = Γ} {t = t} {T = T} {a = a} rc (L′ {j} {k} kA) t® = record
+        { t∶T = t∶T
+        ; T∼A = ®El⇒® (L′ kA) t®
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Realizability.agda]: use `@` to assign names to avoid reconstruction.

File: src/NonCumulative/Soundness/LogRel.agda (hunk 3 above)
Comment (jiangsy) [reply src/NonCumulative/Soundness/LogRel.agda:223]: Since we rewrite every Univ to 𝕌-wellfounded in the proof, this saves some rewrites.  It's fine not to relate the Univ at level j to the Univ at level 1 + j because the U case does not use structural induction.

File: src/NonCumulative/Soundness/Properties/Inversion.agda (hunk 6 above)
Comment (jiangsy) [reply src/NonCumulative/Soundness/Properties/Inversion.agda]: I'm bad at naming so just pick some names. maybe change to sth like ®-Π-𝕌

File: src/NonCumulative/Soundness/Realizability.agda (hunk 8 above)
Comment (jiangsy) [reply src/NonCumulative/Soundness/Realizability.agda]: I think, to achieve so, we need to generalize the defs of `_⊢_∶_®[_]_∈El_`, `_⊢_∶_®↓[_]_∈El_`and `_⊢_∶_®↑[_]_∈El_`, to make them irrelevant to the concrete proof of `A ≈ B ∈ 𝕌 i`. we can discuss this in detail in the meeting. since it's the only place requiring this, not sure if it's worthwhile to do so

File: src/NonCumulative/Soundness/Properties/Inversion.agda (hunk 6 above)
Comment (HuStmpHrrr) [reply src/NonCumulative/Soundness/Properties/Inversion.agda]: yeah it's more like conversion, or packaging.

File: src/NonCumulative/Soundness/Realizability.agda [hunk 15]
```diff
@@ -396,7 +401,7 @@ private
         with C≈C′ (len Δ) | rel ⊢σ
       ...  | V , ↘V , _ | r = (ne V) , (Rne (len Δ) ↘V refl) , r
       ®⇒Rty-eq rc N′ T® ⊢σ = N , (RN _) , ≈-trans ([]-cong-Se′ T® (⊢w⇒⊢s ⊢σ)) (N-[] (⊢w⇒⊢s ⊢σ))
-      ®⇒Rty-eq rc  (U {j} i≡1+j j≡j′) T® ⊢σ rewrite i≡1+j = Se j , (RU _ refl) , ≈-trans ([]-cong-Se′ T® (⊢w⇒⊢s ⊢σ)) (Se-[] _ (⊢w⇒⊢s ⊢σ))
+      ®⇒Rty-eq rc (U {j} i≡1+j j≡j′) T® ⊢σ rewrite i≡1+j = Se j , (RU _ refl) , ≈-trans ([]-cong-Se′ T® (⊢w⇒⊢s ⊢σ)) (Se-[] _ (⊢w⇒⊢s ⊢σ))
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Realizability.agda]: rewrite on a different line.

File: src/NonCumulative/Soundness/Realizability.agda [hunk 16]
```diff
@@ -396,7 +401,7 @@ private
...
       ®⇒Rty-eq {Π j A (S ↙ k) ρ} {_} {_} {T} {Δ} {σ} rc (Π′ {j} {k} jA RT) record { IT = IT ; OT = OT ; ⊢IT = ⊢IT ; ⊢OT = ⊢OT ; T≈ = T≈ ; krip = krip } ⊢σ
         rewrite Glu-wf-gen k (ΠO≤′ j k refl) | Glu-wf-gen j (ΠI≤′ j k refl) |
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Realizability.agda]: either one rewrite one line or all rewrites on the same line.

File: src/NonCumulative/Soundness/Nat.agda [hunk 17]
```diff
@@ -0,0 +1,604 @@
...
+        Γ ⊩ su t ∶[ 0 ] N
+su-I′ {t = t} ⊩t = record { ⊩Γ = ⊩Γ ; krip = helper }
+    where open _⊩_∶[_]_ ⊩t
+          helper : Δ ⊢s σ ∶ ⊩Γ ® ρ → GluExp 0 Δ (su t) N σ ρ
+          helper σ∼ρ with krip σ∼ρ
+          ... | record { ⟦T⟧ = .N ; ⟦t⟧ = ⟦t⟧ ; ↘⟦T⟧ = ⟦N⟧ ; ↘⟦t⟧ = ↘⟦t⟧ ; T∈𝕌 = N′ ; t∼⟦t⟧ = t∼⟦t⟧ , _ } =
+            record { ⟦T⟧ = N ; ⟦t⟧ = su ⟦t⟧ ; ↘⟦T⟧ = ⟦N⟧ ; ↘⟦t⟧ = ⟦su⟧ ↘⟦t⟧ ; T∈𝕌 = N refl ; t∼⟦t⟧ = (su (su-[] ⊢σ (⊩⇒⊢-tm ⊩t)) t∼⟦t⟧) , N-[]  ⊢σ }
+                where ⊢σ = s®⇒⊢s ⊩Γ σ∼ρ
+
+----------------------------------------
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Nat.agda:86]: this comment is out of date.

File: src/NonCumulative/Soundness/Realizability.agda [hunk 18]
```diff
@@ -0,0 +1,536 @@
...
+open import NonCumulative.Statics.Ascribed.Properties.Contexts
+open import NonCumulative.Statics.Ascribed.Properties
+open import NonCumulative.Semantics.Readback
+open import NonCumulative.Semantics.Realizability fext
+open import NonCumulative.Semantics.Properties.PER fext
+open import NonCumulative.Soundness.LogRel
+open import NonCumulative.Soundness.Properties.LogRel fext
+open import NonCumulative.Soundness.Properties.Bundle fext
+
+case_of_ : ∀ {a b} {A : Set a} {B : Set b} → A → (A → B) → B
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Realizability.agda]: why do we need this?

File: src/NonCumulative/Soundness/LogRel.agda [hunk 19]
```diff
@@ -263,14 +263,15 @@ record _⊢_∶_®↓[_]_∈El_ Γ t T i c (A≈B : A ≈ B ∈ 𝕌 i) : Set wh
     c∈⊥  : c ∈′ Bot
     krip : Δ ⊢w σ ∶ Γ → let u , _ = c∈⊥ (len Δ) in Δ ⊢ t [ σ ] ≈ Ne⇒Exp u ∶[ i ] T [ σ ]
 
-record _⊢_∶_®↑[_]_∈El_ Γ t T i a (A≈B : A ≈ B ∈ 𝕌 i) : Set where
+record _⊢_∶_®↑[_]_∈El_≈_ Γ t T i a A B : Set where
   field
     t∶T  : Γ ⊢ t ∶[ i ] T
+    A≈B  : A ≈ B ∈ 𝕌 i
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/LogRel.agda:269]: I thought it didn't work well. why bring it back?

File: src/NonCumulative/Soundness/Realizability.agda [hunk 20]
```diff
@@ -0,0 +1,536 @@
...
+                              Π ((IT ↙ j) [ σ ] [ I ]) (OT [ q (IT ↙ j) σ ] [ I ] ↙ k) ≈⟨ Π-cong (proj₁ (proj₂ (presup-≈ ≈WI))) ≈WI (ctxeq-≈ (∷-cong (⊢≈-refl ⊢Δ) ⊢ITσ (proj₁ (proj₂ (presup-≈ ≈WI))) (≈-sym ([I] ⊢ITσ)) (≈-sym ([I] ⊢ITσ))) ≈WO) refl ⟩
+                              Nf⇒Exp (Π (WI ↙ j) (WO ↙ k))
+                            ∎)
+                        )
+      ®⇒Rty-eq {Δ = Δ} rc (L′ {j = j} {k = k} kA) record { UT = UT ; ⊢UT = ⊢UT ; T≈ = T≈ ; krip = krip } ⊢σ
+        rewrite 𝕌-wf-gen k (Li≤′ j k refl)
+              | Glu-wf-gen k (Li≤′ j k refl) 
+        with ⊢Δ , ⊢Γ ← presup-s (⊢w⇒⊢s ⊢σ)
+        with W , ↘W , ≈W ← ®⇒Rty-eq (λ l<k → rc (Li≤ refl l<k)) kA (krip ⊢σ) (r-I (I-≈ ⊢Δ)) =
+            ( Liftt j (W ↙ k)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Realizability.agda]: why parenthesis here?

File: src/NonCumulative/Soundness/Realizability.agda [hunk 21]
```diff
@@ -0,0 +1,536 @@
...
+            ⊢OTqσ = t[σ]-Se ⊢OT ⊢qσ
+            open ΠRel (krip ⊢σ) using (IT-rel)
+            open ΠRel (krip (⊢w-∘ ⊢σ (⊢wwk ⊢ITσΔ))) using (OT-rel)
+            helper : ∃ λ W → Rty len Δ - Π j A (S ↙ k) ρ at (max j k) ↘ W × Δ ⊢ T [ σ ] ≈ Nf⇒Exp W ∶[ 1 + max j k ] Se (max j k)
+            helper with WI , ↘WI , ≈WI ← ®⇒Rty-eq (λ l<j → rc (ΠI≤ refl l<j)) jA IT-rel (⊢wI ⊢Δ)
+                   with v0®l ← ®↓El⇒®El (λ l<j → rc (ΠI≤ refl l<j)) jA (v0∼x jA IT-rel)
+                   with rel ← OT-rel (®El-resp-T≈ jA v0®l ([∘]-Se ⊢IT ⊢σ′ (s-wk ⊢ITσΔ))) (®El⇒∈El jA v0®l)
+                   with record { ⟦T⟧ = ⟦S⟧ ; ↘⟦T⟧ = ↘⟦S⟧ ; T≈T′ = T≈T′ } ← RT (®El⇒∈El jA v0®l)
+                   with WO , ↘WO , ≈WO ← ®⇒Rty-eq (λ l<k → rc (ΠO≤ refl l<k)) T≈T′ rel (⊢wI ⊢ITσΔ) =
+                        ( Π (WI ↙ j) (WO ↙ k)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Realizability.agda]: products need no parentheses

**Comment by HuStmpHrrr** [comment]
I don't have much more to say other than these minor points.

File: src/NonCumulative/Soundness/LogRel.agda (hunk 19 above)
Comment (jiangsy) [reply src/NonCumulative/Soundness/LogRel.agda:269]: it works for the `®El⇒®↑El`. For `®↓El⇒®El`, I keep `_⊢_∶_®↓[_]_∈El_` unchanged

**Review by HuStmpHrrr — APPROVED** [review]
